2184-03-07 10:11:00 Physician Resident Progress Note
Chief Complaint: CC: Fatigue, abnormal TFTs
   [**Hospital Unit Name 10**] Admission: Hypotension
   24 Hour Events:
   - weaned off pressors
   - good urine output ( > 100 cc/hour)
   - Creatinine back at baseline with IVFs
   - CVP (from groin line) 10 --> 1
 MULTI LUMEN - START [**2184-3-6**] 08:27 PM
   Placed in the ED at [**Hospital1 1**]
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-7**] 08:29 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-7**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 85 (69 - 87) bpm
   BP: 100/60(69) {92/52(61) - 122/84(93)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (1 - 10)mmHg
   Total In:
                                                                  7,367 mL
                                                                  1,155 mL
   PO:
   TF:
   IVF:
                                                                    367 mL
                                                                  1,155 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                  1,120 mL
   Urine:
                                                                    135 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,257 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   6.6 g/dL
   141 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   35 mg/dL
   112 mEq/L
   139 mEq/L
   21.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2184-3-6**]  10:56 PM
                             [**2184-3-7**]  05:00 AM
   WBC
   2.9
   Hct
   21.6
   Plt
   152
   Cr
   1.9
   1.6
   Glucose
   205
   141
   Other labs: PT / PTT / INR:15.7/36.6/1.4, ALT / AST:18/30, Alk Phos / T
   Bili:114/0.4, Differential-Neuts:71.0 %, Band:1.0 %, Lymph:19.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:348 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR:
   TWO VIEWS OF THE CHEST: The cardiomediastinal contour is normal. The
   heart
   is not enlarged. Tenting along the right hemidiaphragm may relate to
   accessory fissure though without lateral, a focal pneumonia cannot be
   excluded. The osseous structures and soft tissues are unremarkable.
   IMPRESSION: No definite pneumonia, but PA/lateral recommended when
   clinically
   feasible given tenting along right hemidiaphragm.
   Assessment and Plan
   74 yo male with CAD, HL, and chronic renal insufficiency admitted to
   the ICU with one month fatigue, chills, and new hypotension requiring
   pressors.
   .
   1.  Septic shock.  No clear source of infection but patient is febrile
   to 103 on admission.  WBC is suprisingly normal with 66% neutrophils,
   2% bands, and 5% atypicals.  Patient denies any localizing symptoms.
   CXR and UA are negative.  Alternative explanation for hypotension is
   dehdyration from several weeks of fevers/chills.  Also, history is
   concerning for occult malignancy, smoldering infection, or
   rheumatological disease.  Off levophed
   - ivfs
   - empiric vanco/ceftriaxone pending culture data
   - central venous sat
   - trend lactate
   - f/u blood, urine cultures
   .
   2.  Fatigue. Patient reports history of fatigue for several weeks.
   Though he denies weight loss, records demonstrate 10 pound weight loss
   over one month.  Has history of pancreatic and colon cancer.  Most
   recent [**Last Name (un) **] was negative in [**2177**].  PSA normal in [**1-28**].  New macrocytic
   anemia with unusual diff and labs consistent with anemia of chronic
   disease raises the possibility of a heme malignancy.  No clear evidence
   of infection, but fever to 103 raises possibility of infection.
   - f/u cultures
   - empiric vanco/ceftriaxone pending culture data
   - spep, upep given anemia, renal failure
   .
   3.  Fevers.  No clear souce of infection.  UA and CXR negative.  Blood
   cultures pending.
   - f/u culture data
   - empiric vanco/ceftriaxone given he is on pressors
   .
   3. Anemia.  Labs consistent with anemia of chornic disease.
   - trend hct
   .
   4.  Acute on chronic renal failure. Likely secondary to hypovolemia.
   - IVFs
   - renally dose all meds
   - trend cr
   .
   4.  Thyroid function.  Low normal TSH with low free T4.  Given that TSH
   is more sensitive, most likely euthryoid.
   - curbside endocrine
   .
   5.  Hyperlipidemia.
   - continue simvastatin
   .
   6.  CAD. Patient denies chest pain.  EKG with some TW flattening in II,
   III, F which improved with rate control and fluids.
   - continue aspirin
   - trend enzymes
   - repeat EKG
   ICU Care
   Nutrition: Regular
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-6**] 08:27 PM
   18 Gauge - [**2184-3-6**] 08:30 PM
   16 Gauge - [**2184-3-6**] 08:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Floor

2184-03-07 10:18:00 Physician Attending Progress Note
Chief Complaint: fever, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2184-3-6**] 08:27 PM
   Placed in the ED at [**Hospital1 1**]
   Gives history this morning of shaking chills on day of admission.
   Hydrated overnight, ~6 L positive fluid balance, weaned of pressors
   shortly after admission to IVF
   History obtained from Patient
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-7**] 08:29 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-7**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-7**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 85 (69 - 87) bpm
   BP: 100/60(69) {92/52(61) - 122/84(93)} mmHg
   RR: 23 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (1 - 10)mmHg
   Total In:
                                                                  7,367 mL
                                                                  1,158 mL
   PO:
   TF:
   IVF:
                                                                    367 mL
                                                                  1,158 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                  1,120 mL
   Urine:
                                                                    135 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,257 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No rash
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   152 K/uL
   141 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   35 mg/dL
   112 mEq/L
   139 mEq/L
   21.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2184-3-6**]  10:56 PM
                             [**2184-3-7**]  05:00 AM
   WBC
   2.9
   Hct
   21.6
   Plt
   152
   Cr
   1.9
   1.6
   Glucose
   205
   141
   Other labs: PT / PTT / INR:15.7/36.6/1.4, ALT / AST:18/30, Alk Phos / T
   Bili:114/0.4, Differential-Neuts:71.0 %, Band:1.0 %, Lymph:19.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:348 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: cortisol - 24 last pm
   Imaging: CXR:  no infiltrate
   Assessment and Plan
 HYPOTENSION, HYPVOLEMIC VS. SEPSIS:  Responsive to IVF resusitation
   overnight, now off pressors.  Still concerned for infection given
   fever, bandemia, history of shaking chills.  No localizing
   signs/symptoms of infectious source, covering broadly.  Follow-up on
   blood cultures.  Cardiac enzymes negative, repeat set pending this am,
   doubt ischemic event.  Check repeat ECG. Will d/c femoral line which
   was placed in the ED.
 ACUTE ON CHRONIC RENAL FAILURE:  Secondary to intravascular volume
   depletion, possible sepsis with poor perfusion.  Cr improved with
   hydration.  Follow urine output, electrolytes.
 ANEMIA:  Hct decreased to 21.4 with hydration.  Check pm hct, guaiac
   stools, type and screen.
   Else agree with detailed assessment and plan as per MICU resident's
   note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-6**] 08:27 PM
   18 Gauge - [**2184-3-6**] 08:30 PM
   16 Gauge - [**2184-3-6**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   Patient is critically ill

2184-03-08 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -gave 1u RBCs and 500cc NS bolus for SBP 83 and pt c/o lightheadedness.
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-7**] 08:29 AM
   Ceftriaxone - [**2184-3-7**] 11:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-7**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-8**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 109 (85 - 122) bpm
   BP: 100/63(72) {83/38(47) - 122/80(87)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,755 mL
                                                                    189 mL
   PO:
                                                                    410 mL
                                                                    170 mL
   TF:
   IVF:
                                                                  1,970 mL
                                                                     19 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,035 mL
                                                                  1,360 mL
   Urine:
                                                                  3,035 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -280 mL
                                                                 -1,171 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, trace pedal edema
   Neuro exam: CN 2-12 grossly intact. Normal strength and sensation in
   bil upper and lower extremities. Pt able to complete finger to nose and
   RAMs, but has +intention tremor in addition to resting tremor.
   Labs / Radiology
   159 K/uL
   8.1 g/dL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.7 mEq/L
   28 mg/dL
   106 mEq/L
   134 mEq/L
   25.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-3-6**]  10:56 PM
                             [**2184-3-7**]  05:00 AM
                             [**2184-3-7**]  03:05 PM
                             [**2184-3-7**]  08:25 PM
                             [**2184-3-7**]  08:26 PM
                             [**2184-3-8**]  05:32 AM
   WBC
   2.9
   4.9
   3.9
   Hct
   21.6
   23.8
   27.3
   25.0
   Plt
   152
   185
   159
   Cr
   1.9
   1.6
   1.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   205
   141
   93
   Other labs: PT / PTT / INR:15.7/36.6/1.4, CK / CKMB /
   Troponin-T:[**10-18**]/<0.01, ALT / AST:18/30, Alk Phos / T Bili:114/0.4,
   Differential-Neuts:71.0 %, Band:1.0 %, Lymph:19.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:348 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: None.
   Microbiology: Urine cltx negative.
   Lyme serology pending.
   Blood cultures NGTD.
   Sputum contaminated.
   Assessment and Plan
   74 yo male with CAD, HL, and chronic renal insufficiency admitted to
   the ICU with one month fatigue, chills, and new hypotension requiring
   pressors.
   .
   1.  Septic shock.  No clear source of infection but patient was febrile
   to 103 on admission.  Blood pressure improved with IVF, off pressors.
   - empiric vanco/ceftriaxone pending culture data
   - trend lactate
   - f/u blood cultures
   - F/U spep/upep
   - lyme titer sent as pt frequently golfs and has h/o tick bite.
   - IVFs prn for hypotension.
   .
   2.  Fatigue. Patient reports history of fatigue for several weeks.
   Though he denies weight loss, records demonstrate 10 pound weight loss
   over one month.  Has history of pancreatic and colon cancer.  Most
   recent [**Last Name (un) **] was negative in [**2177**].  PSA normal in [**1-28**].  New macrocytic
   anemia with unusual diff and labs consistent with anemia of chronic
   disease raises the possibility of a heme malignancy.  No clear evidence
   of infection, but fever to 103 raises possibility of infection.
   - f/u cultures
   - empiric vanco/ceftriaxone pending culture data
   - f/u spep, upep given anemia, renal failure
   .
   3.  Fevers.  No clear souce of infection.  UA and CXR negative.  Blood
   cultures pending.
   - f/u culture data
   - empiric vanco/ceftriaxone given he is on pressors
   .
   3. Anemia.  Labs consistent with anemia of chornic disease.
   - trend hct
   .
   4.  Acute on chronic renal failure. Likely secondary to hypovolemia.
   - IVFs
   - renally dose all meds
   - trend cr
   .
   4.  Thyroid function.  Low normal TSH with low free T4.  Given that TSH
   is more sensitive, most likely euthryoid.
   .
   5.  Hyperlipidemia.
   - continue simvastatin
   .
   6.  CAD. Patient denies chest pain.  EKG with some TW flattening in II,
   III, F which improved with rate control and fluids.
   - continue aspirin
   - trend enzymes
   - repeat EKG
   ICU Care
   Nutrition: Regular
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-3-6**] 08:27 PM
   18 Gauge - [**2184-3-6**] 08:30 PM
   16 Gauge - [**2184-3-6**] 08:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient
   Code status: Full Code
   Disposition: Floor

2184-03-08 09:53:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2184-3-7**] 11:00 AM
   Placed in the ED at [**Hospital1 1**]
 EKG - At [**2184-3-7**] 11:43 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Zocor (Oral) (Simvastatin)
   increased liver
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-7**] 08:29 AM
   Ceftriaxone - [**2184-3-7**] 11:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-3-7**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2184-3-8**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 109 (85 - 122) bpm
   BP: 108/63(74) {83/38(47) - 122/65(76)} mmHg
   RR: 21 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,755 mL
                                                                    189 mL
   PO:
                                                                    410 mL
                                                                    170 mL
   TF:
   IVF:
                                                                  1,970 mL
                                                                     19 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,035 mL
                                                                  1,600 mL
   Urine:
                                                                  3,035 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -280 mL
                                                                 -1,411 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Patient with
   resting tremor
   Labs / Radiology
   8.1 g/dL
   159 K/uL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.7 mEq/L
   28 mg/dL
   106 mEq/L
   134 mEq/L
   25.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2184-3-6**]  10:56 PM
                             [**2184-3-7**]  05:00 AM
                             [**2184-3-7**]  03:05 PM
                             [**2184-3-7**]  08:25 PM
                             [**2184-3-7**]  08:26 PM
                             [**2184-3-8**]  05:32 AM
   WBC
   2.9
   4.9
   3.9
   Hct
   21.6
   23.8
   27.3
   25.0
   Plt
   152
   185
   159
   Cr
   1.9
   1.6
   1.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   205
   141
   93
   Other labs: PT / PTT / INR:15.7/36.6/1.4, CK / CKMB /
   Troponin-T:[**10-18**]/<0.01, ALT / AST:18/30, Alk Phos / T Bili:114/0.4,
   Differential-Neuts:71.0 %, Band:1.0 %, Lymph:19.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:348 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: AG-7
   Assessment and Plan
   74 yo male with initial admission with sepsis and do not have clear
   source identified but have had some real improvement in hemodynamics
   but with persistent low grade fevers and tachycardia persistent
   infectious source raised as possible issue
   SEPSIS-Source not at all clear at this time
have had clinical
   improvement with support.  He has ESR elevation and will have to
   explore non-infectious sources in addition to infectious sources for
   clinical decline.
   -Vanco/CTX to continue
   -Pressors weaned to off
   -PO intake to dominate picture
   -Will have patient OOB to ambulate
   -Trial IVF bolus for increased heart rate
   ALTERED MENTAL STATUS
He has confusion and some impaired visual filed
   deficits and will have to consider MRI with possible following initial
   head CT.
   -Will need further evaluation with neurology to consider sources.
   -TSH has been normal and Cortisol has been reassuring
   -Neuro evaluation to be purused in follow up evaluation
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-3-6**] 08:30 PM
   16 Gauge - [**2184-3-6**] 08:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes